### PR TITLE
Generalize integration_by_parts

### PR DESCRIPTION
**Pull request by IshiguroYoshihiro**
##### Motivation for this change
Add a part of generalized version of integration by parts for unbound intervals  `` `[a, +oo[ ``.
This PR is over #1656 and #1662.
I don't sure that I should add 4 more lemmas and complete all variation of integration by parts for unbound intervals.
I think that 8 similar lemmas would be a mess. So, I'd like to somehow make them up into one or two lemmas, but I don't have an idea.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by IshiguroYoshihiro** [comment]
> Are not all 4 versions the same, the only difference being whether the minus is inside or outside the integral?

If you said that these lemmas can be proved with one of them, I think it is no.
As you can see, the version of `le0_ge0` and `le0_le0` can be proved with `ge0_ge0` or `ge0_le0`, but `ge0_le0` can not proved from `ge0_ge0`.
Because that integration by substitusion using a transformation `F -> F \o -%R ` change the unbounded side of the interval from `` `[a, +oo[ `` to `` `[-oo, - a[``, I may have to set 4 more variations of this lemma for `` `[-oo, -a[ ``.
It will makes messy for the use to set 8 variation of the lemma. So I will consider some good way.

File: theories/ftc.v [hunk 1]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+
+Let FGaoo :
+  (F (a + x.-1%:R) * G (a + x.-1%:R) - F a * G a)%:E @[x --> \oo] -->
+  (FGoo - F a * G a)%:E.
+Proof.
+apply: cvg_EFin; first exact: nearW; apply: cvgB; last exact: cvg_cst.
+rewrite -cvg_shiftS/=.
+apply: (@cvg_comp _ _ _ _ (F \* G)%R _ +oo%R); last exact: cvgFG; apply/cvgeryP.
+apply: (@cvge_pinftyP R (fun x => (a + x)%:E) +oo).1; last exact: cvgr_idn.
+by apply/cvgeryP; exact: cvg_addrl.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
apply: (@cvg_comp _ _ _ _ (F \* G)%R _ +oo%R); last exact: cvgFG.
by apply: cvg_comp; [apply: cvgr_idn|apply: cvg_addrl].
```

File: theories/ftc.v [hunk 2]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+
+Let sumN_Nsum_fG n :
+  \sum_(0 <= i < n)
+    (- (\int[mu]_(x in seqDU (fun k => `]a, a + k%:R]) i)
+         (f x * G x)%:E))%E =
+  - (\sum_(0 <= i < n)
+      (\int[mu]_(x in seqDU (fun k => `]a, a + k%:R]) i)
+        (f x * G x)%:E)%E).
+Proof.
+rewrite big_nat_cond fin_num_sumeN; rewrite -?big_nat_cond//; move=> m _.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
rewrite big_nat_cond fin_num_sumeN -?big_nat_cond// => m _.
```

File: theories/ftc.v [hunk 3]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+rewrite seqDUE integral_itv_obnd_cbnd; last first.
+  apply: measurable_funS mfG => //.
+  by apply/subset_itv => //; rewrite bnd_simp// lerDl.
+apply: integrable_fin_num => //=.
+apply: continuous_compact_integrable; first exact: segment_compact.
+apply: continuous_subspaceW cfG.
+by apply/subset_itv => //; rewrite bnd_simp// lerDl.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
by apply: subset_itv; rewrite // bnd_simp// lerDl.
```

File: theories/ftc.v [hunk 4]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+         (- (f x * G x))%:E)%E.
+Proof.
+rewrite big_nat_cond [RHS]big_nat_cond.
+apply: eq_bigr => i.
+rewrite seqDUE andbT => i0n.
+rewrite 2?integral_itv_obnd_cbnd; last 2 first.
+  apply: measurableT_comp => //.
+  apply: measurable_funS mfG => //.
+  by apply/subset_itv; rewrite bnd_simp// lerDl.
+  apply: measurable_funS mfG => //.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
- apply: measurableT_comp => //; apply: measurable_funS mfG => //.
  by apply/subset_itv; rewrite bnd_simp// lerDl.
- apply: measurable_funS mfG => //.
```

File: theories/ftc.v [hunk 5]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+  by apply/subset_itv; rewrite bnd_simp// lerDl.
+rewrite -integralN ?integrable_add_def ?continuous_compact_integrable//.
+  exact: segment_compact.
+apply: continuous_subspaceW cfG.
+by apply/subset_itv; rewrite bnd_simp// lerDl.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
by apply: continuous_subspaceW cfG; apply/subset_itv; rewrite bnd_simp// lerDl.
```

File: theories/ftc.v [hunk 6]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+    \int[mu]_(x in seqDU (fun k => `]a, a + k%:R]) i) (F x * g x)%:E
+  = limn (fun n => (F (a + n.-1%:R) * G (a + n.-1%:R) - F a * G a)%:E
+                    + \sum_(0 <= i < n)
+                      - \int[mu]_(x in seqDU (fun k => `]a, (a + k%:R)]) i)
+                          (f x * G x)%:E).
+Proof.
+apply: congr_lim; apply/funext => n.
+case: n.
+  by rewrite big_nat_cond [in RHS]big_nat_cond 2?big_pred0//= 2!addr0 subrr.
+case => [|n].
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
apply/congr_lim/funext; case.
  by rewrite big_nat_cond [in RHS]big_nat_cond 2?big_pred0//= 2!addr0 subrr.
case=> [|n].
```

File: theories/ftc.v [hunk 7]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+    + by rewrite lerDl.
+  - apply: continuous_subspaceW cg.
+    by apply/subset_itv => //; rewrite bnd_simp lerDl.
+  - apply: derivable_oy_continuousWoo Goy.
+    + by rewrite ltrD2l ltr_nat.
+    + by rewrite lerDl.
+  over.
+rewrite big_split/=.
+under eq_bigr do rewrite EFinB.
+rewrite telescope_sume// addr0; congr +%E.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
rewrite telescope_sume => [|//|//]; rewrite addr0; congr +%E.
```
0.4s faster

File: theories/ftc.v [hunk 8]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+  {in `]a, +oo[, forall x, 0 <= (f x * G x)%:E} ->
+  {in `]a, +oo[, forall x, 0 <= (F x * g x)%:E} ->
+  \int[mu]_(x in `[a, +oo[) (F x * g x)%:E = (FGoo - F a * G a)%:E -
+  \int[mu]_(x in `[a, +oo[) (f x * G x)%:E.
+Proof.
+move=> fG0 Fg0.
+rewrite -integral_itv_obnd_cbnd// -[in RHS]integral_itv_obnd_cbnd//.
+rewrite itv_bndy_bigcup_BRight seqDU_bigcup_eq.
+rewrite 2?ge0_integral_bigcup//= -?seqDU_bigcup_eq -?itv_bndy_bigcup_BRight.
+- rewrite sum_integral_limn; apply/cvg_lim => //.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
- rewrite [LHS]sum_integral_limn; apply: cvg_lim => //.
```
The pattern makes it 0.1s faster.

File: theories/ftc.v [hunk 9]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+  \int[mu]_(x in `[a, +oo[) (F x * g x)%:E = (FGoo - F a * G a)%:E +
+  \int[mu]_(x in `[a, +oo[) (- (f x * G x)%:E).
+Proof.
+move=> fG0 Fg0.
+have mMfG : measurable_fun `]a, +oo[ (fun x => (- (f x * G x))%R).
+  exact: measurableT_comp.
+rewrite -integral_itv_obnd_cbnd// -[in RHS]integral_itv_obnd_cbnd//.
+rewrite itv_bndy_bigcup_BRight seqDU_bigcup_eq.
+rewrite 2?ge0_integral_bigcup//= -?seqDU_bigcup_eq -?itv_bndy_bigcup_BRight.
+- rewrite sum_integral_limn; apply/cvg_lim => //.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
- rewrite [LHS]sum_integral_limn; apply: cvg_lim => //.
```
.1s faster again.

File: theories/ftc.v [hunk 10]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+  apply: cvgeD; first exact: fin_num_adde_defr; first exact: FGaoo.
+  under eq_cvg do rewrite sumNint_sumintN_fG.
+  apply: is_cvg_nneseries_cond => n _ _; apply: integral_ge0 => x.
+  rewrite seqDUE => anx; rewrite EFinN oppe_ge0.
+  apply: fG0; rewrite inE/=.
+  by apply: subset_itv anx; rewrite bnd_simp// lerDl.
+- by move=> k; apply: measurableD => //; apply: bigsetU_measurable.
+- by apply/measurable_EFinP; exact: measurableT_comp.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
- exact/measurable_EFinP/measurableT_comp.
```

File: theories/ftc.v [hunk 11]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+Hypothesis Gg : {in `]a, +oo[%R, G^`() =1 g}.
+Hypothesis cvgFG : (F \* G)%R x @[x --> +oo%R] --> FGoo.
+
+Let mFg : measurable_fun `]a, +oo[ (F * g)%R.
+Proof.
+apply: subspace_continuous_measurable_fun => //.
+rewrite continuous_open_subspace// => x ax.
+apply: cvgM.
+  have [+ _]:= Foy; move/derivable_within_continuous.
+  by rewrite continuous_open_subspace//; apply.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
  have [/derivable_within_continuous + _] := Foy.
  by rewrite continuous_open_subspace => [|//]; apply.
```
.4s faster

File: theories/ftc.v [hunk 12]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+Let NintNFg : {in `]a, +oo[, forall x, (F x * g x)%:E <= 0} ->
+  \int[mu]_(x in `[a, +oo[) (F x * g x)%:E =
+  - \int[mu]_(x in `[a, +oo[) (- F x * g x)%:E.
+Proof.
+move=> Fg0.
+rewrite -integral_itv_obnd_cbnd//.
+under eq_integral => x do rewrite -(opprK (F x)) mulNr EFinN.
+rewrite integralN/=; last first.
+  apply: fin_num_adde_defl.
+  apply/EFin_fin_numP; exists 0%R.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
  apply/fin_num_adde_defl/EFin_fin_numP; exists 0%R.
```

File: theories/ftc.v [hunk 13]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+  apply/eqe_oppLRP; rewrite oppe0.
+  apply: integral0_eq => /= x ax.
+  apply: (@ge0_funenegE _ _ `]a, +oo[); last by rewrite inE/=.
+  move=> ?/= ?; rewrite mulNr EFinN oppe_ge0 Fg0//=.
+  by rewrite inE.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
  by move=> ?/= ?; rewrite mulNr EFinN oppe_ge0 Fg0//= inE.
```

File: theories/ftc.v [hunk 14]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+Proof.
+move=> fG0 Fg0.
+rewrite NintNFg//.
+rewrite (@integration_by_partsy_ge0_ge0 R (- F)%R G (- f)%R g a (- FGoo))//.
+- rewrite oppeB; last exact: fin_num_adde_defr.
+  rewrite -EFinN opprD 2!opprK mulNr.
+  by under eq_integral do rewrite mulNr EFinN.
+- by move=> ?; apply: cvgN; exact: cf.
+- exact: derivable_oy_continuous_bndN.
+- by move=> ? ?; rewrite fctE derive1N ?Ff//; move: Foy => [+ _]; apply.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
rewrite (@integration_by_partsy_ge0_ge0 R (- F)%R G (- f)%R g a (- FGoo)).
- rewrite oppeB; last exact: fin_num_adde_defr.
  rewrite -EFinN opprD 2!opprK mulNr.
  by under eq_integral do rewrite mulNr EFinN.
- by move=> ?; apply: cvgN; exact: cf.
- exact: derivable_oy_continuous_bndN.
- by move=> ? ?; rewrite fctE derive1N ?Ff//; move: Foy => [+ _]; apply.
- by [].
- by [].
- by [].
```
1.5s faster

File: theories/ftc.v [hunk 15]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+  \int[mu]_(x in `[a, +oo[) (F x * g x)%:E = (FGoo - F a * G a)%:E +
+  \int[mu]_(x in `[a, +oo[) (- (f x * G x)%:E).
+Proof.
+move=> fG0 Fg0.
+rewrite NintNFg//.
+rewrite (@integration_by_partsy_ge0_ge0 R (- F)%R G (- f)%R g a (- FGoo))//.
+- rewrite oppeB; last exact: fin_num_adde_defr.
+  rewrite -EFinN opprD 2!opprK mulNr.
+  by under eq_integral do rewrite mulNr EFinN.
+- by move=> ?; apply: cvgN; exact: cf.
```
Comment (Tragicus) [inline theories/ftc.v:1100]:
```suggestion
- by move=> ?; apply: cvgN; apply: cf.
```

File: theories/ftc.v [hunk 16]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+Qed.
+
+Lemma integration_by_partsy_le0_le0 :
+  {in `]a, +oo[, forall x, (f x * G x)%:E <= 0} ->
+  {in `]a, +oo[, forall x, (F x * g x)%:E <= 0} ->
+  \int[mu]_(x in `[a, +oo[) (F x * g x)%:E = (FGoo - F a * G a)%:E +
+  \int[mu]_(x in `[a, +oo[) (- (f x * G x)%:E).
+Proof.
+move=> fG0 Fg0.
+rewrite NintNFg//.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
move=> fG0 Fg0; rewrite NintNFg//.
```

File: theories/ftc.v [hunk 17]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+Qed.
+
+Lemma integration_by_partsy_ge0_le0 :
+  {in `]a, +oo[, forall x, 0 <= (f x * G x)%:E} ->
+  {in `]a, +oo[, forall x, (F x * g x)%:E <= 0} ->
+  \int[mu]_(x in `[a, +oo[) (F x * g x)%:E = (FGoo - F a * G a)%:E -
+  \int[mu]_(x in `[a, +oo[) (f x * G x)%:E.
+Proof.
+move=> fG0 Fg0.
+rewrite NintNFg//.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
move=> fG0 Fg0; rewrite NintNFg//.
```

File: theories/ftc.v (hunk 14 above)
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
- by move=> ? ?; rewrite fctE derive1N ?Ff => [//|//|]; apply: Foy.1.
```
.7s faster

File: theories/ftc.v [hunk 18]
```diff
@@ -836,6 +836,286 @@ Qed.
...
+rewrite (@integration_by_partsy_le0_ge0 R (- F)%R G (- f)%R g a (- FGoo))//.
+- rewrite oppeD; last exact: fin_num_adde_defr.
+  rewrite -EFinN opprD 2!opprK mulNr.
+  by under eq_integral do rewrite mulNr EFinN oppeK.
+- by move=> ?; apply: cvgN; exact: cf.
+- exact: derivable_oy_continuous_bndN.
+- by move=> ? ?; rewrite fctE derive1N ?Ff//; move: Foy => [+ _]; apply.
```
Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
rewrite (@integration_by_partsy_le0_ge0 R (- F)%R G (- f)%R g a (- FGoo)).
- rewrite oppeD; last exact: fin_num_adde_defr.
  rewrite -EFinN opprD 2!opprK mulNr.
  by under eq_integral do rewrite mulNr EFinN oppeK.
- by move=> ?; apply: cvgN; exact: cf.
- exact: derivable_oy_continuous_bndN.
- by move=> ? ?; rewrite fctE derive1N ?Ff//; move: Foy => [+ _]; apply.
- by [].
- by [].
- by [].
```
1.5s faster

Comment (Tragicus) [inline theories/ftc.v]:
```suggestion
rewrite (@integration_by_partsy_le0_ge0 R (- F)%R G (- f)%R g a (- FGoo))//.
- rewrite oppeD; last exact: fin_num_adde_defr.
  rewrite -EFinN opprD 2!opprK mulNr.
  by under eq_integral do rewrite mulNr EFinN oppeK.
- by move=> ?; apply: cvgN; exact: cf.
- exact: derivable_oy_continuous_bndN.
- by move=> ? ?; rewrite fctE derive1N ?Ff => [//|//|]; apply: Foy.1.
```
.6s faster

File: theories/realfun.v [hunk 19]
```diff
@@ -1192,6 +1192,13 @@ Definition derivable_Nyo_continuous_bnd (f : R -> V) (x : R) :=
 Definition derivable_oy_continuous_bnd (f : R -> V) (x : R) :=
   {in `]x, +oo[, forall x, derivable f x 1} /\ f @ x^'+ --> f x.
 
+Lemma derivable_oy_continuous_bndN (f : R -> V) (x : R) :
+  derivable_oy_continuous_bnd f x -> derivable_oy_continuous_bnd (- f) x.
+Proof.
+move=> [/= derF Fa]; split; last exact: cvgN.
```
Comment (Tragicus) [inline theories/realfun.v]:
```suggestion
case=> /= derF Fa; split; last exact: cvgN.
```

**Review by Tragicus — COMMENTED** [review]
Sorry, I am back.
One way to factorize would be to ask for the relevant functions to have constant sign. I was also wondering whether we want to generalize over the interval, instead of `[a, +oo[`. We would require that the relevant functions are derivable on the interior of the interval and have limits at the boundaries.
@affeldt-aist Some of the following suggestions are quite ugly but save a lot of time, what do you think?

File: theories/ftc.v (hunk 15 above)
Comment (affeldt-aist) [reply theories/ftc.v:1100]: `exact` is colored in red so that one can see that the sentence if closing without even looking at the beginning, no reason to not use it.

File: theories/ftc.v [hunk 20]
```diff
@@ -836,6 +836,284 @@ Qed.
...
+  by move=> ?/= ?; rewrite mulNr EFinN oppe_ge0 Fg0//= inE.
+rewrite integral_itv_obnd_cbnd//.
+under [X in _ _ X]eq_fun do rewrite mulNr; exact: measurableT_comp.
+Qed.
+
+Lemma integration_by_partsy_le0_le0 :
+  {in `]a, +oo[, forall x, (f x * G x)%:E <= 0} ->
+  {in `]a, +oo[, forall x, (F x * g x)%:E <= 0} ->
+  \int[mu]_(x in `[a, +oo[) (F x * g x)%:E = (FGoo - F a * G a)%:E +
+  \int[mu]_(x in `[a, +oo[) (- (f x * G x)%:E).
```
Comment (t6s) [inline theories/ftc.v:1096]: I suspect that this minus sign can be brought out of the integral, so that the statements become more uniform.

File: theories/ftc.v [hunk 21]
```diff
@@ -836,6 +836,284 @@ Qed.
...
+  {in `]a, +oo[, forall x, 0 <= (f x * G x)%:E} ->
+  {in `]a, +oo[, forall x, 0 <= (F x * g x)%:E} ->
+  \int[mu]_(x in `[a, +oo[) (F x * g x)%:E = (FGoo - F a * G a)%:E -
+  \int[mu]_(x in `[a, +oo[) (f x * G x)%:E.
+Proof.
+move=> fG0 Fg0.
+rewrite -integral_itv_obnd_cbnd// -[in RHS]integral_itv_obnd_cbnd//.
+rewrite itv_bndy_bigcup_BRight seqDU_bigcup_eq.
+rewrite 2?ge0_integral_bigcup//= -?seqDU_bigcup_eq -?itv_bndy_bigcup_BRight.
+- rewrite [LHS]sum_integral_limn; apply: cvg_lim => //.
```
Comment (t6s) [inline theories/ftc.v]: The character immediately after `apply:` (that looks like a whitespace) seems to be 0xa0, not an whitespace.
This causes a build failure in my env.

File: theories/ftc.v (hunk 20 above)
Comment (t6s) [reply theories/ftc.v:1096]: like this:
```
Lemma integration_by_partsy_le0_ge0 :
  {in `]a, +oo[, forall x, (f x * G x)%:E <= 0} ->
  {in `]a, +oo[, forall x, 0 <= (F x * g x)%:E} ->
  \int[mu]_(x in `[a, +oo[) (F x * g x)%:E = (FGoo - F a * G a)%:E -
  \int[mu]_(x in `[a, +oo[) (f x * G x)%:E.
Proof.
move=> fG0 Fg0.
have /= mMfG : measurable_fun `]a, +oo[ (fun x => (- (f x * G x))%R).
  exact: measurableT_comp.
rewrite -integral_itv_obnd_cbnd// -[in RHS]integral_itv_obnd_cbnd//.
rewrite -integralN/=; last first.
  rewrite fin_num_adde_defr//.
  under eq_integral => ? ?.
    by rewrite (le0_funeposE fG0); first over; rewrite inE.
  by rewrite integral_cst// mul0e.
rewrite itv_bndy_bigcup_BRight seqDU_bigcup_eq.
rewrite 2?ge0_integral_bigcup//= -?seqDU_bigcup_eq -?itv_bndy_bigcup_BRight.
- rewrite [LHS]sum_integral_limn; apply: cvg_lim => //.
  apply: cvgeD; first exact: fin_num_adde_defr; first exact: FGaoo.
  under eq_cvg do rewrite sumNint_sumintN_fG.
  apply: is_cvg_nneseries_cond => n _ _; apply: integral_ge0 => x.
  rewrite seqDUE => anx; rewrite EFinN oppe_ge0.
  apply: fG0; rewrite inE/=.
  by apply: subset_itv anx; rewrite bnd_simp// lerDl.
- by move=> k; apply: measurableD => //; apply: bigsetU_measurable.
- exact/measurable_EFinP/measurableT_comp.
- by move=> ? ?; rewrite EFinN oppe_ge0 fG0// inE.
- by move=> k; apply: measurableD => //; apply: bigsetU_measurable.
- exact/measurable_EFinP.
- by move=> ? ?; rewrite Fg0// inE.
Qed.
```

File: theories/ftc.v [hunk 22]
```diff
@@ -836,6 +836,284 @@ Qed.
...
+  (F (a + x.-1%:R) * G (a + x.-1%:R) - F a * G a)%:E @[x --> \oo] -->
+  (FGoo - F a * G a)%:E.
+Proof.
+apply: cvg_EFin; first exact: nearW; apply: cvgB; last exact: cvg_cst.
+rewrite -cvg_shiftS/=.
+apply: (@cvg_comp _ _ _ _ (F \* G)%R _ +oo%R); last exact: cvgFG.
+by apply: cvg_comp; [apply: cvgr_idn|apply: cvg_addrl].
+Qed.
+
+Let sumN_Nsum_fG n :
```
Comment (affeldt-aist) [inline theories/ftc.v]: It looks like this `Let` is almost useless.

File: theories/ftc.v [hunk 23]
```diff
@@ -836,6 +836,284 @@ Qed.
...
+rewrite seqDUE integral_itv_obnd_cbnd; last first.
+  apply: measurable_funS mfG => //.
+  by apply/subset_itv => //; rewrite bnd_simp// lerDl.
+apply: integrable_fin_num => //=.
+apply: continuous_compact_integrable; first exact: segment_compact.
+apply: continuous_subspaceW cfG.
+by apply: subset_itv; rewrite // bnd_simp// lerDl.
+Qed.
+
+Let sumNint_sumintN_fG n :
```
Comment (affeldt-aist) [inline theories/ftc.v]: This could be reduced to a mere application of `integralN`.

File: theories/ftc.v (hunk 21 above)
Comment (IshiguroYoshihiro) [reply theories/ftc.v]: I hadn't noticed!
Thank you

**Comment by t6s** [comment]
```
Section integralN.
Local Open Scope order_scope.

Lemma lef0_integralN
  {d : measure_display} {T : measurableType d} {R : realType} {mu : measure T R}
  (D : set T) (f : T -> \bar R) :
  d.-measurable D ->
  {in D, forall x, f x <= 0} ->
  (\int[mu]_(x in D) - f x)%E = (- (\int[mu]_(x in D) f x))%E.
Proof.
move=> mD lef0; rewrite integralN// fin_num_adde_defr//.
under eq_integral => ? ?.
  by rewrite (le0_funeposE lef0); first over; rewrite inE.
by rewrite integral_cst// mul0e.
Qed.

Lemma le0f_integralN
  {d : measure_display} {T : measurableType d} {R : realType} {mu : measure T R}
  (D : set T) (f : T -> \bar R) :
  d.-measurable D ->
  {in D, forall x, 0%E <= f x} ->
  (\int[mu]_(x in D) - f x)%E = (- (\int[mu]_(x in D) f x))%E.
Proof.
move=> mD le0f; rewrite integralN// fin_num_adde_defl//.
under eq_integral => ? ?.
  by rewrite (ge0_funenegE le0f); first over; rewrite inE.
by rewrite integral_cst// mul0e.
Qed.

End integralN.
```

**Comment by affeldt-aist** [comment]
> looking at the code for a while, I noticed there can be some helper lemmas added:
> ...

on our side, we were trying to get rid of `seqDU` that does not seem to be here for good reasons :-/

**Comment by t6s** [comment]
> I suggest keeping 4 lemmas as is, and additionally, provide a unified interface lemma that use the constant_sign predicate

I have changed my mind to endorse `constant_sign`, as this notion can be handily expressed
by `(f <= 0) || (0 <= f)` using `FunOrder.lef`, and moreover,  it contradicts `Num.sgr`.

File: reals/real_interval.v [hunk 24]
```diff
@@ -251,6 +251,40 @@ Qed.
 
 End itv_realDomainType.
 
+(* generalization of
```
Comment (t6s) [inline reals/real_interval.v:217]: This lemma can be an instance of  the monotonicity of the closure operator.

File: theories/ftc.v [hunk 25]
```diff
@@ -836,6 +836,298 @@ Qed.
...
+- exact/measurable_EFinP/measurableT_comp.
+- by move=> ? ?; rewrite EFinN oppe_ge0 fG0// inE.
+- by move=> k; apply: measurableD => //; exact: bigsetU_measurable.
+- exact/measurable_EFinP.
+- by move=> ? ?; rewrite Fg0// inE.
+Qed.
+
+End integration_by_partsy_ge0.
+
+Section integration_by_partsy_le0.
```
Comment (t6s) [inline theories/ftc.v:1037]: This section appears to be sharing many things with the previous one.
Maybe merge the two?

**Review by t6s — COMMENTED** [review]
The main lemmas look good.
After trying to remove subset_itvoSo_cSc, this PR will be ready for merging.

File: theories/ftc.v [hunk 26]
```diff
@@ -824,19 +823,311 @@ have ? : mu.-integrable `[a, b] (fun x => ((f * G) x)%:E).
...
+Let fin_num_intfG (c d : R) : `]c, d] `<=` `]a, +oo[ ->
+  \int[mu]_(x in `]c, d]) (f x * G x)%:E \is a fin_num.
+Proof.
+have [dc _|cd cday] := leP d c.
+  by rewrite set_itv_ge ?bnd_simp -?leNgt// integral_set0.
+rewrite integral_itv_obnd_cbnd; last exact: measurable_funS mfG.
+apply: integrable_fin_num => //=.
+apply: continuous_compact_integrable; first exact: segment_compact.
+by apply: continuous_subspaceW cfG; exact: subset_itvoSo_cSc.
+Qed.
```
Comment (t6s) [inline theories/ftc.v:905]: using #1848, `subset_itvoSo_cSc` can be removed like this:

```
Let neitv_lt_bndP : forall (R : numFieldType) (i : interval R),
    neitv i <-> (i.1 < i.2)%O.
Proof.
move=> ? [] i1 i2/=.
split; first exact: neitv_lt_bnd.
case/(EndlessDenseOrderTheory.itv_bound_half_dense 0%R).
- exact: EndlessDenseOrderTheory.numDomain_is_endless.
- exact: EndlessDenseOrderTheory.numField_is_dense.
move=> /= x /andP[] ? ?.
by apply/set0P; exists x; rewrite /=itv_boundlr; apply/andP; split.
Qed.

Let fin_num_intfG (c d : R) : `]c, d] `<=` `]a, +oo[ ->
  \int[mu]_(x in `]c, d]) (f x * G x)%:E \is a fin_num.
Proof.
have [dc _|cd cday] := leP d c.
  by rewrite set_itv_ge ?bnd_simp -?leNgt// integral_set0.
rewrite integral_itv_obnd_cbnd; last exact: measurable_funS mfG.
apply: integrable_fin_num => //=.
apply: continuous_compact_integrable; first exact: segment_compact.
apply: continuous_subspaceW cfG.
by move/closure_subset: cday; rewrite !itv_closureE// neitv_lt_bndP/= bnd_simp.
Qed.
```

Comment (t6s) [reply theories/ftc.v:905]: `neitv_lt_bndP` is not needed, it's already available as `neitvP`

**Comment by affeldt-aist** [comment]
@IshiguroYoshihiro do you have progress to push to this PR? It should maybe be rebased to stay in sync with master.

**Comment by affeldt-aist** [comment]
> @IshiguroYoshihiro do you have progress to push to this PR? It should maybe be rebased to stay in sync with master.

ping?

**Comment by IshiguroYoshihiro** [comment]
> @IshiguroYoshihiro do you have progress to push to this PR? It should maybe be rebased to stay in sync with master.

Thank you for the ping.
I need to rebase before addressing comments.

File: theories/ftc.v (hunk 18 above)
Comment (IshiguroYoshihiro) [reply theories/ftc.v]: Thanks for the optimization tip.
I've updated the code.

**Comment by IshiguroYoshihiro** [comment]
@affeldt-aist 
I've synchronized the code with the current master branch.

**Comment by affeldt-aist** [comment]
It might be a good idea to rebase this PR with respect to master because the order of the subgoals of rewrites has changed and we have changed the way sigma-algebra's are handled.

I can do it but please tell me if this is not the last version available (and if not push pending commits).

**Comment by affeldt-aist** [comment]
Postponed to the next release (1.19.0)

**Comment by IshiguroYoshihiro** [comment]
@affeldt-aist 
I’m sorry for being late to reply.
As this branch is the latest version, I’d be appreciate you could rebase this to the master.
